US07579370B2
A solid mixture of 4-bromo-2-furaldehyde (1.50 g, 8.57 mmol), PdCl2(PhCN)2 (197 mg, 0.514 mmol) and CuI (65.0 mg, 0.343 mmol) was flushed under an argon stream for 1 minute (min). A solution of HP(t-butyl)3BF4 (298 mg, 1.03 mmol) and diisopropylamine (1.80 mL, 12.9 mmol) in dioxane (9 mL) was added to the solid mixture followed by phenylacetylene (1.13 mL, 10.3 mmol). The reaction was allowed to stir at room temperature (rt) under an atmosphere of argon for 15 hours (h) before being filtered through a plug of silica gel with ethyl acetate (EtOAc). The solution was then concentrated in vacuo and chromatographed over silica gel to give 4-phenylethynyl-furan-2-carbaldehyde as a colorless oil (1.54 g, 92%). Rf=0.35 (1:9 heptane/EtOAc); 1H NMR (400 MHz, CDCl3) δ ppm 9.68 (d, J=0.5 Hz, 1 H) 7.90 (s, 1 H) 7.48-7.55 (m, 2 H) 7.35-7.40 (m, 3 H) 7.33 (d, J=0.7 Hz, 1 H).

reactant | 4-bromo-2-furaldehyde | 8.57 mmol, 1.50 g | BrC=1C=C(OC1)C=O | C5H3BrO2
reactant | diisopropylamine | 12.9 mmol, 1.80 mL | C(C)(C)NC(C)C | C6H15N
reactant | phenylacetylene | 10.3 mmol, 1.13 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | dioxane | 9 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PhCN)2 | 0.514 mmol, 197 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
catalyst | CuI | 0.343 mmol, 65.0 mg | [Cu]I
product | 4-phenylethynyl-furan-2-carbaldehyde | 1.54 g, 92% | C1(=CC=CC=C1)C#CC=1C=C(OC1)C=O | C13H8O2
